US05344843
A solution of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in methanol (40 mL) and tetrahydrofuran (10 mL) was treated with diethanolamine (0. 162 g) and the mixture was refluxed for 18 hours. The solvents were removed by evaporation and the residue was crystallized from acetone to give 0.185 g of N,N-bis(2-hydroxyethyl)-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide as a colorless solid, mp 128°-133° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | diethanolamine | 162 g | N(CCO)CCO | C4H11NO2
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N,N-bis(2-hydroxyethyl)-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide | 0.185 g | OCCN(C(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O)CCO | C24H25NO6
